* D:\electro\colpitts\colpitts.asc
V1 vcc 0 15
C1 N001 0 10n
C2 0 N003 10n
L1 N001 N003 50n
C3 N004 N003 500p
R1 vcc N004 20k
R2 N004 0 1k
Q1 N001 N004 0 0 2N2222
L2 vcc N001 5µ
C4 N002 N001 10n
R3 N002 0 1k
.model NPN NPN
.model PNP PNP
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 50u uic
.backanno
.end
